US08703742B2
7-Ethoxy-3-(nitromethyl)-4-phenylbenzo[c][1,2]oxaborol-1(3H)-ol
A mixture of 4-bromo-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol (315 mg, 1 mmol), tributyl-phenyl-stannane (750 mg, 2 mmol) and Pd(Ph3P)4 (Cat.) in DMF (15 mL) was degassed for 15 min with N2 and then stirred at 100° C. for 30 min in microwave reactor (Biotage). After the reaction was quenched with ice-water, the resulting mixture was extracted with EtOAc (3×40 mL). The combined organic layers were washed with water (20 mL) and brine (20 mL), dried over anhydrous Na2SO4 and then concentrated to dryness. The residue was purified by column chromatography on silica gel to give the compound as white solid (60 mg, yield 20%). 1HNMR (400 MHz, DMSO-d6) δ 9.13 (s, 1H), 7.46-7.49 (m, 5H), 7.34-7.48 (m, 2H), 6.17-6.20 (m, 1H), 4.88-4.92 (m, 1H), 4.21-4.25 (m, 1H), 4.05-4.16 (m, 2H), 1.34-1.37 (m, 3H).

reactant | 4-bromo-7-ethoxy-3-(nitromethyl)benzo[c][1,2]oxaborol-1(3H)-ol | 1 mmol, 315 mg | BrC1=CC=C(C=2B(OC(C21)C[N+](=O)[O-])O)OCC | C10H11BBrNO5
reactant | tributyl-phenyl-stannane | 2 mmol, 750 mg | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Ethoxy-3-(nitromethyl)-4-phenylbenzo[c][1,2]oxaborol-1(3H)-ol | 60 mg, yield 20% | C(C)OC1=CC=C(C2=C1B(OC2C[N+](=O)[O-])O)C2=CC=CC=C2 | C16H16BNO5
